US06136823
Synthesis of 1-(2,4-Difluoro-5-hydroxyphenyl)-6-fluoro-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(2,4-Difluoro-5-hydroxyphenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (300 mg) was added to an aqueous solution (about 40%; 3.0 g) of methylamine to conduct a reaction at 75° C. for 4 days. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (4 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (2 ml) was added to the resultant residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (295 mg) as a pale yellow powder.

reactant | 1-(2,4-Difluoro-5-hydroxyphenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 300 mg | FC1=C(C=C(C(=C1)F)O)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O | C17H9F4NO4
reactant | methylamine | 3.0 g | CN | CH5N
product | 1-(2,4-Difluoro-5-hydroxyphenyl)-6-fluoro-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 295 mg | FC1=C(C=C(C(=C1)F)O)N1C=C(C(C2=CC(=C(C(=C12)C)NC)F)=O)C(=O)O | C18H13F3N2O4
